US07008957B2
10c) tert-Butyl (3R,5R,6S)-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)-piperidin-4-yl]morpholine-4-carboxylate
4 g of tert-butyl (5S,6R)-2-oxo-5,6-diphenylmorpholine-4-carboxylate were dissolved in 50 ml of THF. 9 ml of 15-crown-5 were added, and the mixture was cooled to −78° C. Then 6.8 ml of a 2 M solution of NaHMDS in THF were added dropwise. The mixture was stirred for 10 min and then 8 g of 2-trimethylsilanylethyl 4-iodopiperidine-1-carboxylate were added dropwise. The mixture was allowed to warm to 0° C. over the course of 6 h, and then the reaction was stopped by adding 200 ml of saturated ammonium chloride solution. The aqueous phase was extracted 3 times with 150 ml of ethyl acetate each time, and the combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | tert-butyl (5S,6R)-2-oxo-5,6-diphenylmorpholine-4-carboxylate | 4 g | O=C1CN([C@H]([C@H](O1)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C21H23NO4
reactant | 15-crown-5 | 9 ml | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-trimethylsilanylethyl 4-iodopiperidine-1-carboxylate | 8 g | IC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C11H22INO2Si
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-Butyl (3R,5R,6S)-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)-piperidin-4-yl]morpholine-4-carboxylate | O=C1[C@H](N([C@@H]([C@@H](O1)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)C1CCN(CC1)C(=O)OCC[Si](C)(C)C | C32H44N2O6Si
